US07691882B2
3-(1-(6-Benzyloxy-pyridin-3-ylmethyl)-1H-pyrazol-4-yl)-pyridin-2,6-diamine
To an N,N-dimethylformamide (5.00 mL) solution of 3-(1H-pyrazol-4-yl)-pyridine-2,6-diamine (30.0 mg, 0.171 mmol) described in Manufacturing Example 36-1-2 was added sodium hydride (7.52 mg, 0.188 mmol, 60% in oil) on an ice bath (0° C.), which was stirred for 30 minutes at room temperature. Thereafter, 2-benzyloxy-5-chloromethyl-pyridine (59.9 mg, 0.257 mmol) described in Manufacturing Example 191-1-2 was added to the mixture, which was stirred for 30 minutes at room temperature. The reaction mixture was partitioned into ethyl acetate and water. The organic layer was washed with water and a saturated sodium chloride aqueous solution, and dried with anhydrous magnesium sulfate, and the solvent was evaporated under a reduced pressure. The residue was purified by NH silica gel column chromatography (ethyl acetate) to obtain the title compound (27.4 mg, 43.0%).

reactant | 3-(1H-pyrazol-4-yl)-pyridine-2,6-diamine | 0.171 mmol, 30.0 mg | N1N=CC(=C1)C=1C(=NC(=CC1)N)N | C8H9N5
reactant | sodium hydride | 0.188 mmol, 7.52 mg | [H-].[Na+]
reactant | 2-benzyloxy-5-chloromethyl-pyridine | 0.257 mmol, 59.9 mg | C(C1=CC=CC=C1)OC1=NC=C(C=C1)CCl | C13H12ClNO
solvent | N,N-dimethylformamide | 5.00 mL | CN(C=O)C | C3H7NO
product | 3-(1-(6-Benzyloxy-pyridin-3-ylmethyl)-1H-pyrazol-4-yl)-pyridin-2,6-diamine | 27.4 mg, 43.0% | C(C1=CC=CC=C1)OC1=CC=C(C=N1)CN1N=CC(=C1)C=1C(=NC(=CC1)N)N | C21H20N6O
